US09302991B2
<Step-2>: 2-propionamido-N-(1-(6-(3,3,3-trifluoropropoxy)pyridin-3-yl)ethyl)pyrimidine-4-carb oxamide (Example-183, single enantiomer)
The title compound is prepared from 2-amino-N-(1-(6-(3,3,3-trifluoropropoxy)pyridin-3-yl)ethyl)pyrimidine-4-carboxamide (Step-1, single enantiomer) and propionyl chloride according to the procedure similar to that described in Step-2 of Example 8.

reactant | 2-amino-N-(1-(6-(3,3,3-trifluoropropoxy)pyridin-3-yl)ethyl)pyrimidine-4-carboxamide | NC1=NC=CC(=N1)C(=O)NC(C)C=1C=NC(=CC1)OCCC(F)(F)F | C15H16F3N5O2
reactant | propionyl chloride | C(CC)(=O)Cl | C3H5ClO
product | 2-propionamido-N-(1-(6-(3,3,3-trifluoropropoxy)pyridin-3-yl)ethyl)pyrimidine-4-carb oxamide | C(CC)(=O)NC1=NC=CC(=N1)C(=O)NC(C)C=1C=NC(=CC1)OCCC(F)(F)F | C18H20F3N5O3
